US05464781
A mixture of 6-ethoxy-7-methyl-1,8-naphthyridin-4-ol, (5.0 g) in glacial acetic acid (60 ml) was stirred at between 15°-20° C. while a solution of bromine (2.4 ml) in glacial acetic acid (10 ml) was added dropwise over 10 minutes. The mixture was stirred at ambient temperature for 1.5 hours and then filtered. The residue was washed with water, ground up in water and the mixture basified with sodium bicarbonate and filtered. The solid obtained was ground in sodium bisulphite solution and filtered to give 3-bromo-6-ethoxy-7-methyl-1,8-naphthyridin-4-ol, m.p. 266°-267° C.

reactant | 6-ethoxy-7-methyl-1,8-naphthyridin-4-ol | 5.0 g | C(C)OC=1C=C2C(=CC=NC2=NC1C)O | C11H12N2O2
reactant | bromine | 2.4 ml | BrBr | Br2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | sodium bisulphite | S([O-])(O)=O.[Na+]
product | 3-bromo-6-ethoxy-7-methyl-1,8-naphthyridin-4-ol | BrC=1C=NC2=NC(=C(C=C2C1O)OCC)C | C11H11BrN2O2
